US05234917
A solution of 2-n-butyl-1-(2-chlorophenyl)methyl-5-hydroxymethyl-1H-imidazole (5.4 g, 0.0194 mol) in toluene (25 mL) was added to a suspension of activated manganese dioxide (27 g) in toluene (325 mL) which was previously concentrated with a Dean Stark water separator at reflux for one hour. The suspension was heated at 100° C. for 17 hours. The solids were filtered and the filtrate concentrated and flash chromatographed over silica gel with 6:4 hexane/ethyl acetate to afford 4.16 g (78%) of 2-n-butyl-1-(2-chlorophenyl)methyl-1H-imidazole-5-carboxaldehyde as an oil. NMR and IR were consistent with the structure.

reactant | 2-n-butyl-1-(2-chlorophenyl)methyl-5-hydroxymethyl-1H-imidazole | 0.0194 mol, 5.4 g | C(CCC)C=1N(C(=CN1)CO)CC1=C(C=CC=C1)Cl | C15H19ClN2O
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 325 mL | C1(=CC=CC=C1)C | C7H8
catalyst | manganese dioxide | 27 g | [O-2].[O-2].[Mn+4]
product | 2-n-butyl-1-(2-chlorophenyl)methyl-1H-imidazole-5-carboxaldehyde | 4.16 g, 78% | C(CCC)C=1N(C(=CN1)C=O)CC1=C(C=CC=C1)Cl | C15H17ClN2O
